US07468375B2
To a solution of methyl 3-(chloromethyl)-1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (4 mL, 0.197M in CH2Cl2, 0.788 mmol)) [prepared as described in step 2 of example 40] in anhydrous DMF (10 mL) was added 2-(methoxyethoxy)-ethanol (0.47 g, 3.94 mmol, 0.43 mL, 5 eq.) followed by i-Pr2NEt (0.407 g, 3.14 mmol, 0.55 mL, 4 eq.). The mixture, under nitrogen, was placed in an oil bath and the bath was warmed to 40° C. After stirring for 24 hours (40° C.) the reaction was judged to by complete by HPLC-MS analysis and the volatiles were removed in vacuo (ca. 2 torr) to give a golden yellow oil. The crude material was purified by chromatography on a column of silica gel (40 mm OD, 100 g, 230-400 mesh, packed and eluted with CH2Cl2-EtOAc 70:30 v/v, 0.4 L, CH2Cl2-EtOAc-MeOH 80:18:2 1.0 L, and CH2Cl2-EtOAc-MeOH 80:17.5:2.5 1.0 L, 25 mL fractions) using the flash technique. Fractions 42-80 were combined to afford 0.339 g (78%) of methyl 1-(2,4-difluorobenzyl)-3-{[2-(2-methoxyethoxy)ethoxy]methyl}-1H-pyrrolo[2,3-c]pyridine-5-carboxylate: 2-(methoxyethoxy)-ethanol (1:1) as a clear, colorless, viscous oil.

reactant | methyl 3-(chloromethyl)-1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 0.788 mmol, 0.197M, 4 mL | ClCC1=CN(C2=CN=C(C=C21)C(=O)OC)CC2=C(C=C(C=C2)F)F | C17H13ClF2N2O2
reactant | 2-(methoxyethoxy)-ethanol | 3.94 mmol, 0.43 mL, 0.47 g, 5 eq. | COCCOCCO | C5H12O3
reactant | i-Pr2NEt | 3.14 mmol, 0.55 mL, 0.407 g, 4 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 1-(2,4-difluorobenzyl)-3-{[2-(2-methoxyethoxy)ethoxy]methyl}-1H-pyrrolo[2,3-c]pyridine-5-carboxylate 2-(methoxyethoxy)-ethanol | 0.339 g, 78% | FC1=C(CN2C=C(C=3C2=CN=C(C3)C(=O)OC)COCCOCCOC)C=CC(=C1)F.COCCOCCO | InChI=1S/C22H24F2N2O5.C5H12O3/c1-28-5-6-30-7-8-31-14-16-13-26(12-15-3-4-17(23)9-19(15)24)21-11-25-20(10-18(16)21)22(27)29-2;1-7-4-5-8-3-2-6/h3-4,9-11,13H,5-8,12,14H2,1-2H3;6H,2-5H2,1H3
